US07468375B2
To a solution of 3-({[(4R)-2,2-dimethyl-1,3-dioxolan-4-yl]methoxy}methyl)-1-(4-fluorobenzyl)-1H -pyrrolo[2,3-c]pyridine-5-carboxylic acid (200 mg 0.4828 mmol) in anhydrous DMF (10 mL) was added CDMT (102 mg 0.5793 mmol 1.2 eq.) and NMM (0.064 mL, 0.5793 mmol 1.2 eq.). The mixture, under nitrogen, was stirred for 2 hours, during which it slowly darkened to a deep orange. N-Methylhydroxylamine Hydrochloride (202 mg 2.414 mmol 5.0 eq) was added and stirring continued for 10 hours. The reaction was judged to be complete by HPLC-MS analysis and the volatiles were removed in vacuo (ca. 2 torr) to give a golden yellow oil. This oil was dissolved in EtOAc (30 mL) and washed with water (3×20 mL) and brine (20 mL). The organic phase was separated, dried (Na2SO4), and concentrated in vacuo to afford the crude product which was purified by prep HPLC to give 95 mg (44%) of 3-({[(4R)-2,2-dimethyl-1,3-dioxolan-4-yl]methoxy)methyl)-1-(4-fluorobenzyl)-N -hydroxy-N-methyl-1H-pyrrolo[2,3-c]pyridine-5-carboxamide as a white powder. LC-MS (Eclipse XDB-C8, 0.8 mL/min, gradient 80:20 to 5:95H2O (+0.1% HOAc):CH3CN—5 minutes, ESI, +mode): RT—2.278 min, m/e=444.2 (M+H+, base). 1H-NMR (400 MHz, CDCl3): δ=1.34 (s, 3H), 1.38 (s, 3H), 3.52 (m, 4H), 3.62 (m, 1H), 3.67 (m, 1H), 4.04 (m, 1H), 4.32 (m, 1H) 4.77 (q, 2H), 5.38 (s, 2H), 7.06 (m, 2H), 7.16 (m, 2H), 7.43 (s, 1H), 8.47 (s, 1H), 8.64 (s, 1H).

reactant | 3-({[(4R)-2,2-dimethyl-1,3-dioxolan-4-yl]methoxy}methyl)-1-(4-fluorobenzyl)-1H -pyrrolo[2,3-c]pyridine-5-carboxylic acid | 0.4828 mmol, 200 mg | CC1(OC[C@H](O1)COCC1=CN(C2=CN=C(C=C21)C(=O)O)CC2=CC=C(C=C2)F)C | C22H23FN2O5
reactant | NMM | 0.5793 mmol, 0.064 mL, 1.2 eq. | CN1CCOCC1 | C5H11NO
reactant | N-Methylhydroxylamine Hydrochloride | 2.414 mmol, 202 mg, 5.0 eq | Cl.CNO
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | 30 mL | CCOC(=O)C | C4H8O2
product | 3-({[(4R)-2,2-dimethyl-1,3-dioxolan-4-yl]methoxy)methyl)-1-(4-fluorobenzyl)-N -hydroxy-N-methyl-1H-pyrrolo[2,3-c]pyridine-5-carboxamide | 95 mg, 44% | CC1(OC[C@H](O1)COCC1=CN(C2=CN=C(C=C21)C(=O)N(C)O)CC2=CC=C(C=C2)F)C | C23H26FN3O5
